US07282588B2
2-[4-({4-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methyl)-1-piperazinyl]ethanol
Following the procedure described in Intermediate 101 using 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde and 2-(1-piperazinyl)ethanol provided the title compound. ESMS (M+H)+: 692.4.

reactant | 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C=O)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C25H19N5O5S
reactant | 2-(1-piperazinyl)ethanol | N1(CCNCC1)CCO | C6H14N2O
product | 2-[4-({4-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methyl)-1-piperazinyl]ethanol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=C2)CN2CCN(CC2)CCO)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C37H37N7O5S
